US08119644B2
A mixture of 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester (367 mg, 1 mmol), 4-isopropyl-[1,2,3] thiadiazole (640 mg, 5 mmol), palladium II tetrakis(triphenylphosphine) (35 mg, 0.03 mmol) and potassium acetate (196 mg, 2 mmol) in 10 mL of DMF was warmed to 120° C. and stirred for 16 hours. The reaction mixture was cooled and transferred directly onto a silica column and purified by liquid chromatography (0% to 10% EtOAc/hexanes) to give 250 mg of 3-(4-isopropyl-[1,2,3] thiadiazol-5-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester, MS (M+H)=368.

reactant | 3-iodo-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester | 1 mmol, 367 mg | C(C)OC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)I)=O | C15H14INO2
reactant | 4-isopropyl-[1,2,3] thiadiazole | 5 mmol, 640 mg | C(C)(C)C=1N=NSC1 | C5H8N2S
reactant | potassium acetate | 2 mmol, 196 mg | C(C)(=O)[O-].[K+]
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
catalyst | palladium | 0.03 mmol, 35 mg | [Pd] | Pd
product | 3-(4-isopropyl-[1,2,3] thiadiazol-5-yl)-5-(5-methyl-pyridin-2-yl)-benzoic acid ethyl ester | 250 mg | C(C)OC(C1=CC(=CC(=C1)C1=NC=C(C=C1)C)C1=C(N=NS1)C(C)C)=O | C20H21N3O2S
